US04324787
2,2,4-Trimethyl-1,6-bis-(2-oxo-1-pyrrolidineacetyl)-1,6-diaminohexane
8.55 g (0.05 mol) of ethyl 2-oxo-1-pyrrolidineacetate and 3.95 g (0.025 mol) of 2,2,4-trimethyl-1,6-diaminohexane are boiled in 5 ml of absolute methanol for 22 hours, moisture being excluded. After evaporating off the solvent, the residue is chromatographed on silica gel from methanol/water (80:30). Chromatography is then carried out a second time from methanol/water/acetic acid (20:7.5:2.5), and finally the water and the acetic acid are removed by chromatography on aluminium oxide. The product is syrupy with nD54 1.5095.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | 0.05 mol, 8.55 g | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2,2,4-trimethyl-1,6-diaminohexane | 0.025 mol, 3.95 g | CC(CN)(CC(CCN)C)C | C9H22N2
solvent | methanol | 5 ml | CO | CH4O
product | 2,2,4-Trimethyl-1,6-bis-(2-oxo-1-pyrrolidineacetyl)-1,6-diaminohexane | CC(C(N)C(CN1C(CCC1)=O)=O)(CC(CC(N)C(CN1C(CCC1)=O)=O)C)C | C21H36N4O4
